US07612114B2
6-{2-[4-(2-Azepan-1-ylethoxy)phenylamino]-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from 5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine and 1-[2-(4-bromophenoxy)ethyl]azepane according to an analogous synthetic method to Example 116, [4-(2-azepan-1-ylethoxy)phenyl][5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine (86 mg) was used according to an analogous synthetic method to Example 111 to provide the title compound (28 mg).

reactant | 5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine | COC=1C=CC(=C(C1)N)C1CC2=CC=C(C=C2CC1)OC | C18H21NO2
reactant | 1-[2-(4-bromophenoxy)ethyl]azepane | BrC1=CC=C(OCCN2CCCCCC2)C=C1 | C14H20BrNO
reactant | [4-(2-azepan-1-ylethoxy)phenyl][5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | 86 mg | N1(CCCCCC1)CCOC1=CC=C(C=C1)NC1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C32H40N2O3
product | 6-{2-[4-(2-Azepan-1-ylethoxy)phenylamino]-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 28 mg | N1(CCCCCC1)CCOC1=CC=C(C=C1)NC1=C(C=CC(=C1)O)C1CC=2C=CC(=CC2CC1)O | C30H36N2O3
